US08258140B2
Lithium hydroxide monohydrate (381 mg, 9.08 mmol) was added to ethyl 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate (820 mg, 1.82 mmol) in a mixture of THF (20 mL), water (10 mL) and MeOH (5 mL). The resulting mixture was stirred at ambient temperature for 16 hours. The solvents were evaporated then the residue was suspended in water and acidified to pH 4 with 1M citric acid. The resulting precipitate was collected by filtration, washed with water and dried to afford 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetic acid (575 mg, 74.8%) as a solid.

reactant | Lithium hydroxide monohydrate | 9.08 mmol, 381 mg | O.[OH-].[Li+]
reactant | ethyl 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate | 1.82 mmol, 820 mg | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCC(=O)OCC)C=C2)(F)F | C21H24F3N5O3
reactant | water | 10 mL | O | H2O
reactant | MeOH | 5 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetic acid | 575 mg, 74.8% | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCC(=O)O)C=C2)(F)F | C19H20F3N5O3
